US08067408B2
3-(Chloromethyl)-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide
To a solution of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine (0.303 g, 1.0 mmol) in CH2Cl2 (10 mL) was added 3-(chloromethyl)benzoic acid (0.188 g, 1.1 mmol), EDC (0.288 g, 1.5 mmol), HOBt (0.0135 g, 0.1 mmol), and Et3N (0.141 mL, 1.0 mmol). This mixture was stirred at room temperature for 1 h, then washed with H2O (1 mL) and purified by CombiFlash chromatograph to afford the title compound 0.285 g (63%). LC-MS m/z 456 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine | 1.0 mmol, 0.303 g | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | 3-(chloromethyl)benzoic acid | 1.1 mmol, 0.188 g | ClCC=1C=C(C(=O)O)C=CC1 | C8H7ClO2
reactant | EDC | 1.5 mmol, 0.288 g
reactant | HOBt | 0.1 mmol, 0.0135 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.0 mmol, 0.141 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(Chloromethyl)-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide | 0.285 g, 63% | ClCC=1C=C(C(=O)NCC=2C(=C3C(=NC2CC)N(N=C3)CC)NC3CCOCC3)C=CC1 | C24H30ClN5O2
